US08022062B2
4-Aminomethyl-N-cycloheptyl-2-methyl-benzamide:
Add 4-cyano-N-cycloheptyl-2-methyl-benzamide (0.82 g, 3.2 mmol), ethanol (23 mL), water (8 mL) and acetic acid (1 mL) to a pressure vessel. Heat vessel to 50° C. to dissolve all solids. Add 10% Pd/C (Degussa type E101, 250 mg) under a nitrogen atmosphere, then pressurize the vessel to 55 psi with hydrogen at ambient temperature. Stir the mixture for 40 min. Filter the mixture through Celite® and wash the cake with warm ethanol (50 mL) followed by dichloromethane (100 mL) under a nitrogen atmosphere. Concentrate the filtrate in vacuo to obtain the title compound as the acetic acid salt. Use SCX chromatography to obtain the title compound (820 mg, 98%). MS (ES+) m/z: 261.3 (M+H)+.

reactant | 4-cyano-N-cycloheptyl-2-methyl-benzamide | 3.2 mmol, 0.82 g | C(#N)C1=CC(=C(C(=O)NC2CCCCCC2)C=C1)C | C16H20N2O
reactant | ethanol | 23 mL | C(C)O | C2H6O
reactant | water | 8 mL | O | H2O
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 250 mg | [Pd] | Pd
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 4-Aminomethyl-N-cycloheptyl-2-methyl-benzamide | NCC1=CC(=C(C(=O)NC2CCCCCC2)C=C1)C | C16H24N2O
